US08685986B2
8-(a) tert-Butyl({6-[(benzofuran-2-ylmethyl)(pyridin-3-ylsulfonyl)aminomethyl]-pyridin-2-yl}tert-butoxycarbonylamino)acetate
Reaction and post-treatment were carried out in the same manner as in Example 2-(a) except for using tert-butyl[tert-butoxycarbonyl(6-hydroxymethylpyridin-2-yl)amino]acetate (252 mg, 0.745 mmol) obtained in Reference Example 3-(b), and using N-(benzofuran-2-ylmethyl)pyridin-3-ylsulfonamide (215 mg, 0.747 mmol) obtained in Reference Example 10-(c) in place of N-[4-(thiazol-2-yl)benzyl]pyridin-3-ylsulfonamide to afford the title compound (397 mg) as a white foam. (Yield: 88%) Mass spectrum (FAB, m/z): 609 (M++1).

reactant | tert-butyl[tert-butoxycarbonyl(6-hydroxymethylpyridin-2-yl)amino]acetate | 0.745 mmol, 252 mg | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)CO)C(=O)OC(C)(C)C)=O | C17H26N2O5
reactant | N-(benzofuran-2-ylmethyl)pyridin-3-ylsulfonamide | 0.747 mmol, 215 mg | O1C(=CC2=C1C=CC=C2)CNS(=O)(=O)C=2C=NC=CC2 | C14H12N2O3S
reactant | N-[4-(thiazol-2-yl)benzyl]pyridin-3-ylsulfonamide | S1C(=NC=C1)C1=CC=C(CNS(=O)(=O)C=2C=NC=CC2)C=C1 | C15H13N3O2S2
product | tert-Butyl({6-[(benzofuran-2-ylmethyl)(pyridin-3-ylsulfonyl)aminomethyl]-pyridin-2-yl}tert-butoxycarbonylamino)acetate | 397 mg, Yield: 88% | C(C)(C)(C)OC(CN(C(=O)OC(C)(C)C)C1=NC(=CC=C1)C(NS(=O)(=O)C=1C=NC=CC1)CC=1OC2=C(C1)C=CC=C2)=O | C31H36N4O7S
